US07067658B2
2-Chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine (0.20 g, 0.66 mmol) was dissolved in acetonitrile (20 mL), followed by the addition of 2-methoxy-1-methyl-ethylamine (0.12 g, 1.32 mmol) and Hunig's base (0.037 g, 0.29 mmol). The reaction was stirred at reflux for 64 h. The solution was cooled to room temperature and extracted with EtOAc/H2O. The organic layer was washed with brine, dried (Na2SO4), filtered, and concentrated to yield 0.20 g (87%) of [4-(2,4-dichloro-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine: MS (AP) m/z 356.2 [(M+H)+, 86].

reactant | 2-Chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine | 0.66 mmol, 0.20 g | ClC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C11H5Cl3N2O2
reactant | 2-methoxy-1-methyl-ethylamine | 1.32 mmol, 0.12 g | COCC(C)N | C4H11NO
reactant | Hunig's base | 0.29 mmol, 0.037 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | [4-(2,4-dichloro-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine | 0.20 g, 87% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=C1)NC(COC)C)[N+](=O)[O-] | C15H15Cl2N3O3
